US04168218
Use of benzopinacol
Ethyl red (2.0 mg), 1,1'-diethyl-2,4'-cyanine iodide, was dissolved in 2.0 ml. of acetone/2-methoxyethanol. Then, 50 mg of 4,4"-dimethoxy-2,3,5,6,2",3",5",6"-octafluorobenzopinacol was added. The solution was mixed with 1.0 ml of 20 percent polysulfonamide polymer solution (acetone/2-methoxyethanol (1:1)). The solution was mixed and coated on poly(ethylene terephthalate) film base at a wet thickness of 0.098 mm. It was allowed to dry at 49° C. for 15 minutes. The dye in the film had λ max at 565 nm, and at 530 nm, the optical density was 1.8 and 0.93, respectively. The film was heated at 160° C. for 10 seconds. The optical density of the heated film was 0.20 at λ=565 and 0.18 at 530 nm. The reduction in the dye density was 89 percent and 81 percent, at the two wavelengths. The same results were obtained after the film had been held in storage at room temperature for 6 months.

reactant | Ethyl red | 2.0 mg | CCN(CC)C1=CC=C(C=C1)N=NC2=CC=CC=C2C(=O)O | C17H19N3O2
reactant | 1,1'-diethyl-2,4'-cyanine iodide | CCN1/C(=C/C2=CC=[N+](C3=CC=CC=C23)CC)/C=CC4=CC=CC=C41.[I-]
reactant | 4,4"-dimethoxy-2,3,5,6,2",3",5",6"-octafluorobenzopinacol | 50 mg | COC1=C(C(=C(C(=C1F)F)C(O)(C1=CC=CC=C1)C(O)(C1=C(C(=C(C(=C1F)F)OC)F)F)C1=CC=CC=C1)F)F | C28H18F8O4
solvent | acetone 2-methoxyethanol | CC(=O)C.COCCO
product | benzopinacol | C1(=CC=CC=C1)C(O)(C1=CC=CC=C1)C(O)(C1=CC=CC=C1)C1=CC=CC=C1 | C26H22O2
